US07071218B2
A solution of 6-hydroxy-2-naphthoic acid (75.9 g, 0.40 mol) in ethanol (1.0 L) and sulfuric acid (5.0 mL) was heated to reflux under an atmosphere of nitrogen. After 16 hours, the volume was removed to approximately half via simple distillation and the resulting solution was diluted with water. The resulting cloudy mixture was extracted with EtOAc (4×) and the combined organics were successively washed with NaHCO3 (0.25 M, twice), water, brine and dried (MgSO4). The mixture was filtered and evaporated to give 6-hydroxy-naphthalene-2-carboxylic acid ethyl ester, 85.4 g (98%).

reactant | 6-hydroxy-2-naphthoic acid | 0.40 mol, 75.9 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | ethanol | 1.0 L | C(C)O | C2H6O
solvent | sulfuric acid | 5.0 mL | S(O)(O)(=O)=O | H2O4S
product | 6-hydroxy-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)O | C13H12O3
